US08710242B2
2-Chloro-N-cyclopropyl-4-Iodobenzamide
2-Chloro-4-iodobenzoic acid (3.31 g, 11.7 mmol) was dissolved in ethyl acetate (23 ml), admixed with one drop of N,N-dimethylformamide and thionyl chloride (6.96 g, 59.0 mmol), and heated under reflux overnight. The cooled suspension was concentrated under reduced pressure and taken up in dichloromethane (60 ml). The solution was cooled to 0° C., and pyridine (925 mg, 11.7 mmol) and cyclopropylamine (668 mg, 11.7 mmol) were added dropwise. The reaction mixture was warmed up to room temperature and stirred overnight. Then it was washed with hydrochloric acid (1 M), dried over sodium sulphate, filtered and concentrated to dryness under reduced pressure.

reactant | 2-Chloro-4-iodobenzoic acid | 11.7 mmol, 3.31 g | ClC1=C(C(=O)O)C=CC(=C1)I | C7H4ClIO2
reactant | thionyl chloride | 59.0 mmol, 6.96 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 11.7 mmol, 925 mg | N1=CC=CC=C1 | C5H5N
reactant | cyclopropylamine | 11.7 mmol, 668 mg | C1(CC1)N | C3H7N
solvent | ethyl acetate | 23 ml | C(C)(=O)OCC | C4H8O2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 2-Chloro-N-cyclopropyl-4-Iodobenzamide | ClC1=C(C(=O)NC2CC2)C=CC(=C1)I | C10H9ClINO
